US07141596B2
Step 2. Methyl 2-[4-((2S)-3-[3-bromo-4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)phenyl]-2-[(phenylsulfonyl)-amino]propanoylamino)butoxy]-6-hydroxybenzoate
(2S)-3-[3-bromo-4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)phenyl]-2-[(phenylsulfonyl)-amino]-propanoic acid (10.3 mg, 0.020 mmol) in DMF (1 mL) was treated with benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (10.6 mg, 0.024 mmol). After stirring 5 minutes at rt a solution of N,N-diisopropylethylamine (17.4 L, 0.10 mmol) and methyl 2-(4-aminobutoxy)-6-hydroxybenzoate hydrochloride (8.27 mg, 0.030 mmol) in DMF (1 mL) was added. The solution stirred at rt for 2 h. Purification by preparative LCMS afforded product as a white solid (9.2 mg, 62%). 1H NMR (400 MHz, CD3OD): δ 7.96 (brs, 1H), 7.69–7.65 (m, 2H), 7.52–7.14 (m, 7H), 6.51–6.46 (m, 2H), 5.62–5.59 (m, 1H), 4.00–3.94 (m, 13H), 3.87 (s, 3H), 3.44–3.38 (m, 1H), 3.36–3.30 (m. 1H), 3.06–3.00 (m, 1H), 2.98–2.91 (m, 2H), 2.81–2.72 (m, 1H), 1.64–1.60 (m, 2H), 1.51–1.47 (m, 2H); LCMS found for C30H33BrN3O10S2 (M+H)+: m/z=738.

reactant | (2S)-3-[3-bromo-4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)phenyl]-2-[(phenylsulfonyl)-amino]-propanoic acid | 0.020 mmol, 10.3 mg | BrC=1C=C(C=CC1C1CC(NS1(=O)=O)=O)C[C@@H](C(=O)O)NS(=O)(=O)C1=CC=CC=C1 | C18H17BrN2O7S2
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.024 mmol, 10.6 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | N,N-diisopropylethylamine | 0.10 mmol, 17.4 L | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methyl 2-(4-aminobutoxy)-6-hydroxybenzoate hydrochloride | 0.030 mmol, 8.27 mg | Cl.NCCCCOC1=C(C(=O)OC)C(=CC=C1)O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | Methyl 2-[4-((2S)-3-[3-bromo-4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)phenyl]-2-[(phenylsulfonyl)-amino]propanoylamino)butoxy]-6-hydroxybenzoate | 9.2 mg, 62% | BrC=1C=C(C=CC1C1CC(NS1(=O)=O)=O)C[C@@H](C(=O)NCCCCOC1=C(C(=O)OC)C(=CC=C1)O)NS(=O)(=O)C1=CC=CC=C1 | C30H32BrN3O10S2
